Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Keflex / clindamycin / Cephalosporins / trazodone
 
Attending: ___
 
Chief Complaint:
hand weakness, aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old right handed man with
history of stage IV renal cell carcinoma (with lymph node and
bone metastases) on cabozantinib, glaucoma, and hypothyroidism
who presents following 4 episodes of right hand sensorimotor
symptoms within the last few days, including one this evening
associated with expressive aphasia. History provided by patient
and ___ (caretaker). 

Mr. ___ was in his usual state of health until 3 days ago,
when he woke up at approximately 6:00AM on ___ with right
hand numbness and weakness. He had been last well the previous
night when he woke up several hours prior to urinate. When he
woke up the entire right hand felt numb (sparing the rest of the
arm, leg and face). No other features such as difficulty
understanding or expressing speech, visual changes or dizziness.
This resolved in about ___ minutes. 

Several hours later, he had a second episode that occurred while
shaving. At the time he had numbness and weakness in the right
hand, leading him to drop the razor. He reports he could not
grasp with his hand properly. No other features once more, as
above. Symptoms resolved in about 10 minutes. He told his
caretaker, ___, about this later in the day, and she arranged
for him to see his primary care physician the next day. 

The following day, he felt in his usual state of health for most
of the day. He saw his PCP who expressed concern for TIA and
ordered urgent MRI head w/ and w/o contrast, MRA head and neck.
He was sent to ___ for the MRI. While in MRI
triage, he had an identical episode, lasting 10 minutes before
resolving. We do not have these images at this time. MRI report
was recently obtained from ___, revealing "remote 
hemorrhage
in the right mesial parietal lobe with signal characteristics
suggesting a cavernous angioma." There was no evidence for
hemorrhage or infarct. There were chronic microvascular ischemic
changes. No masses noted on contrast enhancement. MRA head/neck
unremarkable. These results were not yet made aware to patient,
and plan had been to consider increasing aspirin to 325mg daily
per PCP ___ MRI results.

Tonight, at 6:20PM (about 2 hours prior to my assessment) 
patient
had yet another episode of transient neurologic symptoms. This
particular one was different than the recent episodes described
above, in that he now had associated expressive aphasia. He was
eating dinner with his caretaker. Just as he was about to take a
spoonful of clam chowder, he had acute onset of right hand
numbness and weakness (like previous episodes) causing him to
drop the spoon. He then started talking in 'garbled speech' 
which
the caretaker describes as nonsensical noises, without any
discernible words. This lasted about 10 minutes before 
resolving.
The caretaker gave aspirin 243 (81mg x3) and brought patient to
___ ED for further evaluation.

Currently patient reports feeling at his baseline apart from
feeling "a little woozy." Denies any further hand weakness,
denies difficulties understanding or expressing speech. Prior to
the above denies any recent illness, fevers/chills, or 
medication
changes. 

He does note that he had a similar episode of expressive aphasia
several years ago which has since resolved. More recently, in
___, soon after starting Pazopanib, he was 
hospitalized
due to HTN urgency(BP > 200/90) resulting in hospitalization for
confusion, stroke-like symptoms. Neurology was consulted and
recommended head imaging. Head CT was negative for an acute
bleed, MRI/MRA head and neck was for negative for any new
infarct. MR was notable for microangiopathic changes in
supratentorial white matter with previously described right 
messiah parietal cavernous angioma and
several small punctate deposits suggestive of amyloid 
angiopathy.
LDL and HbA1c were within normal limits. He was maintained on 
his
home aspirin. He also has seen Dr. ___ (neurology,
Atrius), last in ___, for presumed cervicogenic headaches. 

On neuro ROS, the pt reports mild gait unsteadiness over the 
last
few weeks since starting most recent chemo in ___.
Denies headache, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the pt reports chronic nocturia,
urinary frequency. Denies recent fever or chills.  No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath.  Denies chest pain or tightness, palpitations.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
-Stage IV renal cell CA with bone, lymph node mets
-Glaucoma
-Hypothyroidism, presumed chemo induced per records

 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
ADMISSION EXAM:
Vitals: T 96.5F, HR 45, BP 165/84, RR 16, O2 100% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. Hard of hearing. 
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2.5mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5   5    5   5    ___   5    5    5      5
R  5   5    5   5    ___   5    5    5      5
-Sensory: No deficits to light touch, pinprick proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat     Ach
L  2  2    2   trace   0
R  2  2    2   trace   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, No dysmetria on FNF
bilaterally.

-Gait: Deferred 

==========================
DISCHARGE EXAM

Vitals: T 96.5F, HR 45, BP 165/84, RR 16, O2 100% RA 

General: Awake, cooperative
HEENT: NC/AT, no scleral icterus noted, MMM, Hard of hearing. 
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Language is fluent with 
intact comprehension. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL. EOMI without nystagmus. Normal 
saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to speech
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions

-Motor: Normal bulk, tone throughout. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5   5    5   5    ___   5    5    5      5
R  5   5    5   5    ___   5    5    5      5
-Sensory: No deficits to light touch

-Coordination: No dysmetria on FNF bilaterally.

 
Pertinent Results:
___ 04:15AM BLOOD Glucose-80 UreaN-22* Creat-1.3* Na-139 
K-4.9 Cl-102 HCO3-28 AnGap-9*
___ 04:15AM BLOOD WBC-4.5 RBC-4.14* Hgb-13.4* Hct-39.8* 
MCV-96 MCH-32.4* MCHC-33.7 RDW-15.8* RDWSD-56.0* Plt ___
___ 04:10AM BLOOD ALT-22 AST-22 LD(LDH)-209 AlkPhos-54 
TotBili-1.4
___ 04:10AM BLOOD TotProt-5.7* Albumin-3.5 Globuln-2.2
___ 04:15AM BLOOD D-Dimer-1217*
___ 08:13PM BLOOD %HbA1c-5.0 eAG-97
___ 08:10PM BLOOD Triglyc-83 HDL-53 CHOL/HD-3.6 LDLcalc-119

MRI Head ___:
1. No acute infarct is identified. 
2. 5 mm focus of calcification and chronic hemorrhage in the 
right parietal 
lobe is likely a  small cavernoma. 

CTA Head and Neck ___:
1. Evidence of a a linear defect in the left carotid bulb due to 
a carotid web 
or artifact from mixing.  The location is unusual for a 
dissection. 
2. Probable 0.8 cm right parietal cavernoma.  This could be 
further evaluated 
with an MR brain. 
3. Mild white matter small vessel disease. 
4.  Generalized parenchymal volume loss, likely age related. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old right handed man
with history of stage IV renal cell carcinoma (with lymph node
and bone metastases) on cabozantinib, glaucoma, and
hypothyroidism who presents following 4 episodes of right hand
sensorimotor symptoms within the last few days, including one
episode associated with expressive aphasia. No acute stroke was 
found on imaging, and ultimate diagnosis is TIA.

# TIA: Patient symptoms had resolved upon arrival, and he had no 
further symptoms during admission. CTA showed a R parietal small 
cavernoma, seen and stable on prior imaging dating back to ___. 
MRI did not show any acute stroke. As patient had symptoms while 
compliant with aspirin, a decision was made to switch to plavix 
for discharge. Patient was started on atorvastatin 40 to 
decrease stroke risk (LDL 119).

=====
Transitional issue:
- Patient blood pressure systolic 140s during admission, please 
titrate antihypertensives

=====
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 119) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. cabozantinib 20 mg oral DAILY 
3. Aspirin 81 mg PO DAILY 
 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  cabozantinib 20 mg oral DAILY  
4.  Levothyroxine Sodium 137 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 You were hospitalized due to symptoms of hand weakness and 
difficulty speaking resulting from a TRASIENT ISCHEMIC ATTACK 
(TIA), a condition where a blood vessel providing oxygen and 
nutrients to the brain is temporarily obstructed. The brain is 
the part of your body that controls and directs all the other 
parts of your body, so damage to the brain from being deprived 
of its blood supply can result in a variety of symptoms. 
 
 TIA are associated with risk for future stroke. We assessed you 
for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
 renal cell carcinoma
 
 We are changing your medications as follows:  
   Please stop aspirin, and start taking plavix.
   Please start taking atorvastatin. 

 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___